### PR TITLE
feat: fill in sorrys in `LogSizeBallSequence.lean`

### PR DESCRIPTION
**Pull request by DavidLedvinka**

### CODE REVIEW

File: BrownianMotion/Continuity/LogSizeBallSequence.lean [hunk 1]
```diff
@@ -104,41 +115,99 @@ lemma radius_logSizeBallSeq_add_one (hJ : J.Nonempty) (i : ℕ) :
...
+  | zero => simp [finset_logSizeBallSeq_zero]
+  | succ i ih =>
+      by_cases h : (logSizeBallSeq J hJ a c i).finset.Nonempty
+      · apply Nat.le_of_lt_succ
+        apply lt_of_lt_of_le (card_finset_logSizeBallSeq_add_one_lt hJ i h)
+        omega
+      apply le_trans <| Finset.card_le_card (finset_logSizeBallSeq_add_one_subset hJ i)
+      suffices #(logSizeBallSeq J hJ a c i).finset = 0 by simp [this]
+      rw [← Finset.card_empty]
+      congr; exact Finset.not_nonempty_iff_eq_empty.mp h
```
Comment (RemyDegenne) [inline BrownianMotion/Continuity/LogSizeBallSequence.lean:196]:
```suggestion
      congr
      exact Finset.not_nonempty_iff_eq_empty.mp h
```

**Review by RemyDegenne — APPROVED** [review]
This is great! Thanks!
